US06911468B2
(3) 2-(4-Benzyloxyphenyl)-5-methyl-1-(4-pentylcyclohexylmethyl)-1H-pyrrole
A solution of 1-(4-benzyloxyphenyl)pentane-1,4-dione (2.00 g, 7.08 mmol), 2-(4-pentylcyclohexyl)ethylamine (1.30 g, 7.08 mmol) and p-toluenesulfonic acid monohydrate (101 mg, 0.523 mmol) in toluene (100 ml) was refluxed for 12 hours under heating using Dean-Stark's apparatus, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 770 mg (yield: 25.3%)

reactant | 1-(4-benzyloxyphenyl)pentane-1,4-dione | 7.08 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CCC(C)=O)=O | C18H18O3
reactant | 2-(4-pentylcyclohexyl)ethylamine | 7.08 mmol, 1.30 g | C(CCCC)C1CCC(CC1)CCN | C13H27N
reactant | p-toluenesulfonic acid monohydrate | 0.523 mmol, 101 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Benzyloxyphenyl)-5-methyl-1-(4-pentylcyclohexylmethyl)-1H-pyrrole | yield: 25.3% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CC1CCC(CC1)CCCCC | C30H39NO
